US07585874B2
1-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-azetidin-2-one
As described for Example 60, 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine (100 mg, 0.25 mmol) was converted, using 2-azetidinone instead of benzamide, to the title compound (4.8 mg, 6%) which was obtained as a light yellow oil. MS: m/e=345.0 [M+H]+.

reactant | 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 0.25 mmol, 100 mg | IC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12IN3O
reactant | 2-azetidinone | N1C(CC1)=O | C3H5NO
product | 1-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-azetidin-2-one | 4.8 mg, 6% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N2C(CC2)=O)C1 | C20H16N4O2
